US09216998B2
A solution of Z-tert-butyl(((tert-butoxycarbonyl)imino)(6-phenethyl-7-(trifluoromethyl)-3,4-dihydro-[1,4]diazepino[6,7,1-hi]indol-2(1H)-yl)methyl)carbamate (74 mg, 0.13 mmol) in CH2Cl2 (5 mL) was treated with 4M HCl in 1,4-dioxane (12 mL) and the resulting mixture was stirred at room temperature overnight. Evaporation of the solvent and trituration with diethyl ether yielded 6-phenethyl-7-(trifluoromethyl)-3,4-dihydro-[1,4]diazepino[6,7,1-hi]indole-2(1H)-carboximidamide (26 mg).

reactant | Z-tert-butyl(((tert-butoxycarbonyl)imino)(6-phenethyl-7-(trifluoromethyl)-3,4-dihydro-[1,4]diazepino[6,7,1-hi]indol-2(1H)-yl)methyl)carbamate | 0.13 mmol, 74 mg | C(C)(C)(C)OC(N\C(\C1CN2C=CC3=C(C(=CC(=C23)CN1)CCC1=CC=CC=C1)C(F)(F)F)=N/C(=O)OC(C)(C)C)=O | C31H37F3N4O4
reactant | HCl | 4M | Cl | ClH
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 12 mL | O1CCOCC1 | C4H8O2
product | 6-phenethyl-7-(trifluoromethyl)-3,4-dihydro-[1,4]diazepino[6,7,1-hi]indole-2(1H)-carboximidamide | 26 mg | C(CC1=CC=CC=C1)C=1C(=C2C=CN3C2=C(C1)CNC(C3)C(N)=N)C(F)(F)F | C21H21F3N4
